US07521448B2
To a 20 mL Bohdan MiniBlock 12-position glass reaction tube, 1-{4-[2-(pyridin-2-yloxy)ethoxy]phenyl}-1H-benzimidazole-5-carboxylic acid (100 mg, 0.27 mmol), PS-HOBt (HL; 269 mg, 0.24 mmol), DMAP (18 mg, 0.15 mmol), CH2Cl2 (1 mL), and DMF (0.25 mL) were added. The reaction mixture was shaken for 5 min. 1,3-Diisopropylcarbodiimide (138 mg, 1.09 mmol) was added to the reaction mixture and shaken for 4 h. The solution was filtered and the resin was washed with CH2Cl2 (3×3 mL), DMF (3×3 mL), and THF (3×3 mL). The resin was resuspended in DMF (1 mL) and 2-aminoethanol (15 mg, 0.24 mmol) and DIEA (31 mg, 0.24 mmol) were added. The reaction mixture was allowed to shake overnight. The reaction mixture was then filtered, and washed with CH2Cl2 (3×3 mL), DMF (3×3 mL), and THF (3×3 mL). The filtrate and the washes were combined and concentrated in vacuo. The crude product was purified by using the Waters mass-directed HPLC purification system to yield N-(2-hydroxyethyl)-1-{4-[2-(pyridin-2-yloxy)ethoxy]phenyl}-1H-benzimidazole-5-carboxamide as a yellowish white powder. 1H NMR (d6-DMSO, 400 MHz): δ 8.57 (s, 1H), 8.49 (t, J=4.4 Hz, 1H), 8.32 (d, J=1.2 Hz, 1H), 8.19 (ddd, J=5.2, 2.0, 0.8 Hz, 1H), 7.85 (dd, J=8.4, 1.6 Hz, 1H), 7.74 (ddd, J=9.2, 7.2, 2.0 Hz, 1H), 7.61 (ddd, J=5.6, 3.6, 3.6 Hz, 2H), 7.56 (d, J=8.0 Hz, 1H), 7.23 (ddd, J=6.0, 3.6, 3.6 Hz, 2H), 7.01 (ddd, J=7.2, 5.2, 0.8 Hz, 1H), 6.88 (ddd, J=8.4, 0.8, 0.8 Hz, 1H), 4.63 (m, 2H), 4.43 (m, 2H), 2.82 (d, J=4.8 Hz, 3H). MS(ES+): m/z 419 (60) [MH+].

reactant | 1-{4-[2-(pyridin-2-yloxy)ethoxy]phenyl}-1H-benzimidazole-5-carboxylic acid | 0.27 mmol, 100 mg | N1=C(C=CC=C1)OCCOC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)O | C21H17N3O4
reactant | HOBt | 0.24 mmol, 269 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1,3-Diisopropylcarbodiimide | 1.09 mmol, 138 mg | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 2-aminoethanol | 0.24 mmol, 15 mg | NCCO | C2H7NO
reactant | DIEA | 0.24 mmol, 31 mg | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMAP | 0.15 mmol, 18 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxyethyl)-1-{4-[2-(pyridin-2-yloxy)ethoxy]phenyl}-1H-benzimidazole-5-carboxamide | OCCNC(=O)C1=CC2=C(N(C=N2)C2=CC=C(C=C2)OCCOC2=NC=CC=C2)C=C1 | C23H22N4O4
